US07820700B2
Methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate and trifluoromethanesulfonic anhydride were reacted at 0° C. in dichloromethane in the presence of diisopropylethylamine to obtain methyl 2-(3-cyano-4-([(trifluoromethyl)sulfonyl]oxy)phenyl)isonicotinate. F: 387.

reactant | Methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate | C(#N)C=1C=C(C=CC1O)C=1C=C(C(=O)OC)C=CN1 | C14H10N2O3
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 2-(3-cyano-4-([(trifluoromethyl)sulfonyl]oxy)phenyl)isonicotinate | C(#N)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C=1C=C(C(=O)OC)C=CN1 | C15H9F3N2O5S
